US09212187B2
Synthesis of 5-(1H-benzoimidazol-2-ylmethyl)-2-methyl-5H-furo[3,2-c]pyridin-4-one
5-(2,2-Dihydroxyethyl)-2-methyl-5H-furo[3,2-c]pyridine-4-one (2.1 g) and o-phenylenediamine(1.1 g) were suspended in ethanol(20 ml). Sodium hydrogensulfite(5.2 g) was added, and the mixture was heated and stirred overnight under reflux. The reaction mixture was cooled to room temperature. Water was added thereto and the precipitated insoluble matter was separated, washed with water, and dried to give the title compound(2.25 g).

reactant | 5-(2,2-Dihydroxyethyl)-2-methyl-5H-furo[3,2-c]pyridine-4-one | 2.1 g | OC(CN1C(C2=C(C=C1)OC(=C2)C)=O)O | C10H11NO4
reactant | o-phenylenediamine | 1.1 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | Sodium hydrogensulfite | 5.2 g | S(=O)(O)[O-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(1H-benzoimidazol-2-ylmethyl)-2-methyl-5H-furo[3,2-c]pyridin-4-one | 2.25 g | N1C(=NC2=C1C=CC=C2)CN2C(C1=C(C=C2)OC(=C1)C)=O | C16H13N3O2
